US04465834
Preparation of 1-Methyl-4-piperidyl α-Cyclopentyl-α-phenylethynylglycolate
The reaction of ethyl α-cyclopentyl-α-phenylethynylglycolate (5.4 g., 0.02 mole), 1-methyl-4-piperidinol (3.5 g., 0.03 mole) and sodium (~0.05 g.) in about 85 ml. of toluene was carried out essentially as described in the preceding preparation. However, no solid precipitated upon the addition of 20°-40° petroleum ether at the end of the reflux period. The reaction mixture therefore was poured on ice and HCl and extracted with ether. The ether extracts were washed with dilute HCl. The washings and water layer were combined, made basic with sodium carbonate, and extracted with chloroform. Drying of the basic extract and subsequent distillation of the volatile compound in vacuo yielded a tarry residue which, when treated with ether and hexane gave 1.5 g. (22%) of crude product. The pure compound, m.p. 104°-105°, was obtained by recrystallization from hexane.

reactant | ethyl α-cyclopentyl-α-phenylethynylglycolate | 0.02 mole, 5.4 g | C1(CCCC1)C(C(=O)OCC)(O)C#CC1=CC=CC=C1 | C17H20O3
reactant | 1-methyl-4-piperidinol | 0.03 mole, 3.5 g | CN1CCC(CC1)O | C6H13NO
reactant | sodium | ~0.05 g | [Na] | Na
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
solvent | ether | CCOCC | C4H10O
product | 1-Methyl-4-piperidyl α-Cyclopentyl-α-phenylethynylglycolate | C1(CCCC1)C(C(=O)OC1CCN(CC1)C)(O)C#CC1=CC=CC=C1 | C21H27NO3
